US06140330
To a solution of dimethyl [{2-methoxy-4-[2-(2-benzothiazolylaminocarbonyl)ethyl]benzoyl}methyl]phosphonate (6.4 g) in tetrahydrofuran (100 ml) is added 40% glyoxylic acid (7.7 ml), and further thereto is added dropwise a 5% aqueous sodium hydroxide solution (70 ml) under ice-cooling. The mixture is stirred for 30 minutes, and the mixture is acidified with 5% hydrochloric acid. The precipitated yellow powder is collected by filtration, washed with ethanol, dried, and then recrystallized from dimethylformamide-ethanol to give 2-{2-[3-methoxy-4-(trans-3-carboxyacryloyl)phenyl]ethylcarbonyl amino}benzothiazole (4.0 g).

reactant | dimethyl [{2-methoxy-4-[2-(2-benzothiazolylaminocarbonyl)ethyl]benzoyl}methyl]phosphonate | 6.4 g | COC1=C(C(=O)CP(OC)(OC)=O)C=CC(=C1)CCC(=O)NC=1SC2=C(N1)C=CC=C2 | C21H23N2O6PS
reactant | glyoxylic acid | 7.7 ml | C(C=O)(=O)O | C2H2O3
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-{2-[3-methoxy-4-(trans-3-carboxyacryloyl)phenyl]ethylcarbonyl amino}benzothiazole | 4.0 g | COC=1C=C(C=CC1C(\C=C\C(=O)O)=O)CCC(=O)NC=1SC2=C(N1)C=CC=C2 | C21H18N2O5S
